US08809525B2
6-(3-Methoxypiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine (33 mg, 4%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.70 g, 2.78 mmol), K2CO3 (0.80 g, 5.85 mmol) and 3-methoxy piperidine HCl (0.52 g, 3.34 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 2.78 mmol, 0.70 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | K2CO3 | 5.85 mmol, 0.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methoxy piperidine HCl | 3.34 mmol, 0.52 g | Cl.COC1CNCCC1
product | 6-(3-Methoxypiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine | 33 mg, 4% | COC1CN(CCC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H19N5O
